US04442103
1-(3-Iodo-2-pyridinyl)piperazine Dihydrochloride
A solution of 2-chloro-3-iodopyridine (2.39 g, 10 mmol) and piperazine (8.61 g, 100 mmol) in n-BuOH, 100 mL, was stirred at reflux under N2 for 18 h. After removing most of the n-BuOH under reduced pressure, the residue was partitioned between toluene and 10% NaOH. The toluene layer was washed further with water, dried (Na2SO4), filtered and concentrated to an oil. The pyridinylpiperazine was purified by recrystallization of the dihydrochloride salt from methanol-ethanol-ethylacetate, m.p. 185°-189° C. (dec.).

reactant | 2-chloro-3-iodopyridine | 10 mmol, 2.39 g | ClC1=NC=CC=C1I | C5H3ClIN
reactant | piperazine | 100 mmol, 8.61 g | N1CCNCC1 | C4H10N2
solvent | n-BuOH | CCCCO | C4H10O
product | 1-(3-Iodo-2-pyridinyl)piperazine Dihydrochloride | Cl.Cl.IC=1C(=NC=CC1)N1CCNCC1 | InChI=1S/C9H12IN3.2ClH/c10-8-2-1-3-12-9(8)13-6-4-11-5-7-13;;/h1-3,11H,4-7H2;2*1H
